US07074800B1
A suspension of 4-chloro-6-methoxy-7-(1-methylpiperidin-4-ylmethoxy)quinazoline (100 mg, 0.31 mmol), (prepared as described for the starting material in Example 10), and 5-amino-2,3-dimethylindole (55 mg, 0.34 mmol) in isopropanol (6 ml) containing 5.5M hydrogen choride in isopropanol (60 μL) was heated for 30 minutes at 70° C. After cooling, the solid was collected by filtration, washed with isopropanol, followed by ether and dried under vacuum to give 4-(2,3-dimethylindol-5-ylamino)-6-methoxy-7-(1-methylpiperidin-4-ylmethoxy)quinazoline hydrochloride (118 mg, 74%).

reactant | 4-chloro-6-methoxy-7-(1-methylpiperidin-4-ylmethoxy)quinazoline | 0.31 mmol, 100 mg | ClC1=NC=NC2=CC(=C(C=C12)OC)OCC1CCN(CC1)C | C16H20ClN3O2
reactant | 5-amino-2,3-dimethylindole | 0.34 mmol, 55 mg | NC=1C=C2C(=C(NC2=CC1)C)C | C10H12N2
reactant | hydrogen choride | 5.5M | Cl | ClH
solvent | isopropanol | 6 ml | C(C)(C)O | C3H8O
solvent | isopropanol | 60 μL | C(C)(C)O | C3H8O
product | 4-(2,3-dimethylindol-5-ylamino)-6-methoxy-7-(1-methylpiperidin-4-ylmethoxy)quinazoline hydrochloride | 118 mg, 74% | Cl.CC=1NC2=CC=C(C=C2C1C)NC1=NC=NC2=CC(=C(C=C12)OC)OCC1CCN(CC1)C | InChI=1S/C26H31N5O2.ClH/c1-16-17(2)29-22-6-5-19(11-20(16)22)30-26-21-12-24(32-4)25(13-23(21)27-15-28-26)33-14-18-7-9-31(3)10-8-18;/h5-6,11-13,15,18,29H,7-10,14H2,1-4H3,(H,27,28,30);1H
